* Shapeic primitive multiport admittance extraction
.lib '/home/daniel/shapeic/pdks/ciel/ihp-sg13g2/versions/22f2a25f1734796de3debbbf29cf697cbbc54081/ihp-sg13g2/libs.tech/ngspice/models/cornerMOSlv.lib' mos_tt
.include '/home/daniel/shapeic/shapeic-layout/lut_generation/work-cellkit-magic-smoke/currentmirror_l0_w0_n1/device_correction/primitive.aggregate.spice'
VPORT_DOUT DOUT 0 DC=-5.00000000000000000e-01 AC=0
VPORT_DREF DREF 0 DC=-5.00000000000000000e-01 AC=1
VPORT_S S 0 DC=0.00000000000000000e+00 AC=0
VPORT_B B 0 DC=0.00000000000000000e+00 AC=0
XPRIMITIVE DOUT DREF S B aggregate_currentmirror
.options temp=27 tnom=27
.control
pre_osdi '/home/daniel/shapeic/pdks/ciel/ihp-sg13g2/versions/22f2a25f1734796de3debbbf29cf697cbbc54081/ihp-sg13g2/libs.tech/ngspice/osdi/psp103.osdi'
pre_osdi '/home/daniel/shapeic/pdks/ciel/ihp-sg13g2/versions/22f2a25f1734796de3debbbf29cf697cbbc54081/ihp-sg13g2/libs.tech/ngspice/osdi/psp103_nqs.osdi'
save i(VPORT_DOUT) i(VPORT_DREF) i(VPORT_S) i(VPORT_B)
op
ac dec 1 1.00000000000000000e+06 1.00000000000000000e+07
write '/home/daniel/shapeic/shapeic-layout/lut_generation/work-cellkit-magic-smoke/currentmirror_l0_w0_n1/device_correction/bias_0000/aggregate/excite_dref/admittance.raw' frequency i(VPORT_DOUT) i(VPORT_DREF) i(VPORT_S) i(VPORT_B)
.endc
.end
